US04399300
In a one-liter glass flask equipped with stirrer, 2 dropping funnels, a reflux condenser, a glass electrode and a glass inlet tube for carbon monoxide, 108.5 g (1 mole) of chloroacetic acid methyl ester is reacted for 61/2 hours with 1 mole of potassium methylate (28.75% solution in methanol) in the presence of 10 g of Co2 (CO)8, at 70° C., 0.8 at. CO, and a pH of approximately 8.5. The processing yields 119 g of malonic acid dimethyl ester (90% yield), and small amounts of acetic acid methyl ester and methoxyacetic acid methyl ester, plus 5 g of higher-boiling substances.

reactant | carbon monoxide | [C]=O | CO
reactant | chloroacetic acid methyl ester | 1 mole, 108.5 g | COC(CCl)=O | C3H5ClO2
reactant | potassium methylate | 1 mole | C[O-].[K+]
reactant | acetic acid methyl ester | COC(C)=O | C3H6O2
reactant | methoxyacetic acid methyl ester | COC(COC)=O | C4H8O3
product | malonic acid dimethyl ester | 119 g, 90% yield | COC(CC(=O)OC)=O | C5H8O4
